US06462075B1
2,6-Di(2-naphthylidene)cyclohexanone.
(78) To a solution of the 2-naphthaldehyde (1.56 g, 10.0 mmol) and cyclohexanone (491 mg, 5.0 mmol) in 7.5 ml of ethanol was added 5 ml 40% sodium hydroxide at 0° C. After stirring for 12 hr at room temperature, the solution was filtered. The precipitate was recrystallized from ethyl acetate to afford 1.50 g (80.6%) of bright-yellow flakes: mp 179.4-180.6° C. (lit. mp 176° C., Kabli, et al., Indian J. Chem., Sect. B, 1986,25, 152-156). 1H NMR (250 MHz) δ 8.00-7.84 (m, 10H), 7.62-7.48 (m, 6H), 3.07 (t, 4H), 1.85 (p, 2H); 13C NMR (62.7 MHz) 190.4, 137.3, 136.5, 133.7, 133.3, 130.5, 128.5, 128.1, 127.9, 127.1, 126.6, 28.6, 23.7 ppm.

reactant | 2-naphthaldehyde | 10.0 mmol, 1.56 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | cyclohexanone | 5.0 mmol, 491 mg | C1(CCCCC1)=O | C6H10O
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | 2,6-Di(2-naphthylidene)cyclohexanone | C1C(C=CC2=CC=CC=C12)=C1C(C(CCC1)=C1CC2=CC=CC=C2C=C1)=O | C26H22O
